US04767758
(b) 4-nitro-2-cyanothiophene
To a solution of 2-cyanothiophene (10.9 g; 0.1 mol) in 25 ml of acetic anhydride (t=10° C.) are added 9 ml of fuming nitric acid (d=1.49 g/ml).

reactant | 2-cyanothiophene | 0.1 mol, 10.9 g | C(#N)C=1SC=CC1 | C5H3NS
reactant | nitric acid | 9 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-nitro-2-cyanothiophene | [N+](=O)([O-])C=1C=C(SC1)C#N | C5H2N2O2S
